US04675403
To a stirred suspension of 12.9 g (0.010 mole) of 1-amino-1-cyclopentane carboxylic acid in 500 ml of methylene chloride is added 25 ml (0.10 mole) of N,O-bis(trimethylsilyl)acetamide. The mixture is stoppered and stirred at room temperature for 3 days, whereupon complete solution is obtained. 17 g (0.10 mole) of benzylchloroformate is added and the mixture stirred for an additional 1 hour. It is then washed with 300 ml each 2N HCl, water and saturated brine and dried over sodium sulfate. Filtration, evaporation and trituration with hexane gives 24 g of 1-carbobenzoxyamino-1-cyclopentane carboxylic acid, mp. 93°-5° C. 5.3 g (0.020 mole) of 1-carbobenzoxyamino-1-cyclopentane carboxylic acid is dissolved in 100 ml dimethylformamide and 3.1 g (0.020 mole) of 1-hydroxybenzotriazole hydrate and 2.5 g (0.020 mole) of 1,3-diisopropylcarbodiimide are added. The mixture is stirred at room temperature for three hours and 1.8 g (0.020 mole) of 4-amino-1-butanol is added. Stirring at room temperature is continued for 24 hours. The solvent is removed in vacuo and replaced with 500 ml of methylene chloride. The mixture is washed with 2N HCl, saturated sodium bicarbonate solution and water and dried over sodium sulfate. Filtration and evaporation gives 6.7 g of 1-carbobenzoxyamino-1-cyclopentane carboxylic acid, 4-hydroxybutylamide, m.p 117°-8° C.

reactant | 1-carbobenzoxyamino-1-cyclopentane carboxylic acid | 0.020 mole, 5.3 g | C(=O)(OCC1=CC=CC=C1)NC1(CCCC1)C(=O)O | C14H17NO4
reactant | 1-hydroxybenzotriazole hydrate | 0.020 mole, 3.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-diisopropylcarbodiimide | 0.020 mole, 2.5 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 4-amino-1-butanol | 0.020 mole, 1.8 g | NCCCCO | C4H11NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-carbobenzoxyamino-1-cyclopentane carboxylic acid, 4-hydroxybutylamide | 6.7 g | OCCCCNC(=O)C1(CCCC1)NC(=O)OCC1=CC=CC=C1 | C18H26N2O4
